US06365610B1
Preparation of 1,2,4,5-tetrahydro-2,4,5-triphenyl-1,4-epoxy-3,2-benzoxazepin (Compound 8)
A 2.68 g quantity (10 mmols) of 1,2-diphenylindene, a known compound, was oxidized with ozone in 15 ml of methylene chloride, and the resulting reaction mixture was reduced with 2,77 g of triphenylphosphine in 30 ml of benzene at room temperature for 15 hours to obtain 1.8 g of 2-(α-benzoylbenzyl)benzaldehyde (yield 60%). A 300 mg portion (1 mmol) of the 2-(α-benzoylbenzyl)benzaldehyde was reacted with 109 mg of phenylhydroxylamine in 20 ml of ethanol at room temperature for 15 hours. The reaction mixture obtained was poured into water, followed by extraction with ether and then silica gel column chromatography for the separation of the product, consequently giving 117 mg of a 2:1 mixture of exo- and endo-isomers of the desired compound from a fraction obtained by elution with benzene-hexane (1:1) (yield 30%). The physical properties of the product are shown in Table 2.

reactant | 2-(α-benzoylbenzyl)benzaldehyde | 1 mmol | C(C1=CC=CC=C1)(=O)C(C1=CC=CC=C1)C1=C(C=O)C=CC=C1 | C21H16O2
reactant | phenylhydroxylamine | 109 mg | C1(=CC=CC=C1)NO | C6H7NO
reactant | water | O | H2O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 1,2,4,5-tetrahydro-2,4,5-triphenyl-1,4-epoxy-3,2-benzoxazepin | C1(=CC=CC=C1)N1C2C3=C(C(C(O1)(O2)C2=CC=CC=C2)C2=CC=CC=C2)C=CC=C3 | C27H21NO2
